US07560467B2
(a) 5-nitro-1H-indazol-3-amine
Hydrazine monohydrate (2.1 mL, 44 mmol) was added to a solution of 2-chloro-5-nitrobenzonitrile (7.30 g, 40 mmol) in pyridine (30 mL) and the mixture was heated to reflux overnight. The dark red solution was then cooled, poured into H2O and the resulting solid filtered and dried to give the title compound as a dark red powder (5.7 g, 80%). NMR 1H NMR (400 MHz, DMSO-D6) δ ppm 8.95 (d, J=2.0, 1H), 8.06 (dd, J=9.2, 2.0, 1H), 7.34 (d, J=9.2, 1H), 5.98 (br s, 2H) MS m/z 179.0 [M+H]+

reactant | Hydrazine monohydrate | 44 mmol, 2.1 mL | O.NN
reactant | 2-chloro-5-nitrobenzonitrile | 40 mmol, 7.30 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | H2O | O | H2O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 5-nitro-1H-indazol-3-amine | 5.7 g, 80% | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)N | C7H6N4O2
